US04757068
3-Aminoperhydro-2-azepinone (R. Pellegata, et al., Synthesis, 1978, 614-616) was alkylated with t-butyl iodoacetate as described in Example 1, Step B, to afford 1-t-butoxycarbonylmethyl-3-aminoperhydro-2-azepinone.

reactant | 3-Aminoperhydro-2-azepinone | NC1C(NCCCC1)=O | C6H12N2O
reactant | t-butyl iodoacetate | ICC(=O)OC(C)(C)C | C6H11IO2
product | 1-t-butoxycarbonylmethyl-3-aminoperhydro-2-azepinone | C(C)(C)(C)OC(=O)CN1C(C(CCCC1)N)=O | C12H22N2O3
